### PR TITLE
fix and strengthen eq_bigmax and eq_bigmin in order.v

### PR DESCRIPTION
**Pull request by t6s**
##### Motivation for this change

Lemmas eq_bigmax and eq_bigmin in order.v is wrongly stated in weaker forms
that do not respect their argument P in the returned type.

##### Things done/to do

This PR fixes the problem by strengthening the statements and amending the proofs.

- [YES ] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
~- [NO] added corresponding documentation in the headers~

Also PR-ed to mathcomp-analysis: https://github.com/math-comp/analysis/pull/863

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/order.v [hunk 1]
```diff
@@ -4446,12 +4446,16 @@ by apply/bigmax_leP; split => //; exact: PxF.
 Qed.
 
 Lemma eq_bigmin j P F : P j -> (forall i, P i -> F i <= x) ->
-  {i0 | i0 \in I & \big[min/x]_(i | P i) F i = F i0}.
-Proof. by move=> Pi0 Hx; rewrite (bigmin_eq_arg Pi0) //; eexists. Qed.
+  {i0 | i0 \in P & \big[min/x]_(i | P i) F i = F i0}.
+Proof.
+by move=> Pi0 Hx; rewrite (bigmin_eq_arg Pi0) //; eexists => //; case:arg_minP.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:4451]: nitpicking
```suggestion
by move=> Pi0 Hx; rewrite (bigmin_eq_arg Pi0) //; eexists=> //; case: arg_minP.
```

File: mathcomp/ssreflect/order.v [hunk 2]
```diff
@@ -4446,12 +4446,16 @@ by apply/bigmax_leP; split => //; exact: PxF.
...
+Qed.
 
 Lemma eq_bigmax j P F : P j -> (forall i, P i -> x <= F i) ->
-  {i0 | i0 \in I & \big[max/x]_(i | P i) F i = F i0}.
-Proof. by move=> Pi0 Hx; rewrite (bigmax_eq_arg Pi0) //; eexists. Qed.
+  {i0 | i0 \in P & \big[max/x]_(i | P i) F i = F i0}.
+Proof.
+by move=> Pi0 Hx; rewrite (bigmax_eq_arg Pi0) //; eexists => //; case:arg_maxP.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:4457]:
```suggestion
by move=> Pi0 Hx; rewrite (bigmax_eq_arg Pi0) //; eexists=> //; case: arg_maxP.
```

**Review by proux01 — COMMENTED** [review]
I wonder wether we should go through a deprecation phase?

**Comment by thery** [comment]
> I wonder wether we should go through a deprecation phase?

These theorems have not be released no?

**Comment by proux01** [comment]
> These theorems have not be released no?

Well, they appeared in 1.16.0 we just released last month.
But CI is green, so I hope we wouldn't hurt too many users with the change.

**Comment by proux01** [comment]
Thanks @t6s for the backport
